US04749574
Fuming nitric acid (1.57 ml) was added dropwise to acetic anhydride (3.54 ml) with stirring at 0° to 5° C. 2-Hydroxymethyl-6-chloropyridine (3.59 g) was added thereto. The resulting mixture was stirred for 20 minutes at 0° C. to 5° C. The resulting mixture was alkalized weakly with an aqueous potassium carbonate solution, extracted with chloroform, washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue obtained was subjected to column chromatography on aluminum oxide (40 g) and eluted with toluene. The fractions containing the desired compound were concentrated under reduced pressure to give colorless viscous oil of 2-nitroxymethyl-6-chloropyridine (2.9 g).

reactant | nitric acid | 1.57 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 3.54 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-Hydroxymethyl-6-chloropyridine | 3.59 g | OCC1=NC(=CC=C1)Cl | C6H6ClNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-nitroxymethyl-6-chloropyridine | 2.9 g | O([N+](=O)[O-])CC1=NC(=CC=C1)Cl | C6H5ClN2O3
